.inc CoilcraftTemplates.lib

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1812SMS-22N
* Inductance = 22nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-3.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1812SMS-22N_freq port1 port2 PARAMS: Cpar=0.1721pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=2.278
+ R2=0.1502
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=209
+ L_EL=45.12
+ L_F0=1198E6
+ PkZ=0
.ends 1812SMS-22N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1812SMS-27N
* Inductance = 27nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2.8GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1812SMS-27N_freq port1 port2 PARAMS: Cpar=0.1781pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=4.288
+ R2=0.1842
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=256.5
+ L_EL=45.12
+ L_F0=1198E6
+ PkZ=0
.ends 1812SMS-27N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1812SMS-33N
* Inductance = 33nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1812SMS-33N_freq port1 port2 PARAMS: Cpar=0.1754pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=8.126
+ R2=0.2307
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=245.2
+ L_EL=65.8
+ L_F0=1370E6
+ PkZ=0
.ends 1812SMS-33N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1812SMS-39N
* Inductance = 39nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2.3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1812SMS-39N_freq port1 port2 PARAMS: Cpar=0.2379pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=5.948
+ R2=0.2628
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=267.5
+ L_EL=58.07
+ L_F0=1121E6
+ PkZ=0
.ends 1812SMS-39N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1812SMS-47N
* Inductance = 47nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1812SMS-47N_freq port1 port2 PARAMS: Cpar=0.2342pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=1.208
+ R2=0.3135
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=307.5
+ L_EL=63.68
+ L_F0=1177E6
+ PkZ=0
.ends 1812SMS-47N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1812SMS-56N
* Inductance = 56nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1.8GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1812SMS-56N_freq port1 port2 PARAMS: Cpar=0.2312pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=1.208
+ R2=0.4015
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=366.1
+ L_EL=63.68
+ L_F0=1177E6
+ PkZ=0
.ends 1812SMS-56N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1812SMS-68N
* Inductance = 68nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1.8GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1812SMS-68N_freq port1 port2 PARAMS: Cpar=0.2483pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=1.736
+ R2=0.4991
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=342.5
+ L_EL=72.92
+ L_F0=1047E6
+ PkZ=0
.ends 1812SMS-68N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1812SMS-82N
* Inductance = 82nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1812SMS-82N_freq port1 port2 PARAMS: Cpar=0.2483pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=1.736
+ R2=0.5971
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=411.5
+ L_EL=72.92
+ L_F0=1047E6
+ PkZ=0
.ends 1812SMS-82N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1812SMS-R10
* Inductance = #VALUE!
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1.3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1812SMS-R10_freq port1 port2 PARAMS: Cpar=0.314pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=2.409
+ R2=0.731
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=385
+ L_EL=79.49
+ L_F0=886E6
+ PkZ=0
.ends 1812SMS-R10_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1812SMS-R12
* Inductance = #VALUE!
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1.2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1812SMS-R12_freq port1 port2 PARAMS: Cpar=0.1893pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=3.129
+ R2=1.01
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=563
+ L_EL=100.9
+ L_F0=1102E6
+ PkZ=0
.ends 1812SMS-R12_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1812SMS-R15
* Inductance = #VALUE!
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1.1GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1812SMS-R15_freq port1 port2 PARAMS: Cpar=0.1323pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=5
+ R2=0.86
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=567
+ L_EL=100.9
+ L_F0=1102E6
+ PkZ=0
.ends 1812SMS-R15_freq

